US08076349B2
N-Benzyl-N-(methoxymethyl)trimethylsilylmethylamine (10.03 g, 40.5 mmol) was added to (S)-4-phenyl-3-[(E)-(3-phenyl-acryloyl)]-oxazolidin-2-one (10.3 g, 35.1 mmol) in toluene (150 mL) at 0° C. and stirred for 20 minutes. Trifluoroacetic acid (9.7 mL) in dichloromethane (125 mL) was added dropwise to the reaction mixture keeping the internal temperature at 0° C. The reaction was stirred at room temperature overnight. The reaction mixture was poured into saturated sodium bicarbonate (200 mL) and extracted with dichloromethane (2×75 mL). The combined organic phases were washed with brine and dried over sodium sulfate. The organic phases were concentrated to give a waxy solid, which was purified by flash silica gel chromatography eluting with ethyl acetate:hexanes (1:9) to give 9.68 g (61%) of (S)-3-((3R,4S)-1-benzyl-4-phenyl-pyrrolidine-3-carbonyl)-4-phenyl-oxazolidin-2-one.

reactant | N-Benzyl-N-(methoxymethyl)trimethylsilylmethylamine | 40.5 mmol, 10.03 g | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
reactant | (S)-4-phenyl-3-[(E)-(3-phenyl-acryloyl)]-oxazolidin-2-one | 35.1 mmol, 10.3 g | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(\C=C\C1=CC=CC=C1)=O | C18H15NO3
reactant | Trifluoroacetic acid | 9.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
product | (S)-3-((3R,4S)-1-benzyl-4-phenyl-pyrrolidine-3-carbonyl)-4-phenyl-oxazolidin-2-one | 9.68 g, 61% | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O | C27H26N2O3
